US07910592B2
A solution of triphenylphosphine (469 mg, 1.79 mmol) in dry CH2Cl2 (2 mL) was added dropwise to a stirred solution of carbon tetrabromide (592 mg, 1.79 mmol) and (3-iodo-2-naphthyl)methanol (423 mg, 1.49 mmol) in dry CH2Cl2 (11 mL) at room temperature under N2. The reaction was stirred for 4 h at room temperature and was concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 25×160 mm, 0-50% EtOAc in hexanes gradient) to afford 2-(bromomethyl)-3-iodonaphthalene, as a colorless solid. Rf=0.84 (20% EtOAc/hexanes). 1H NMR (600 MHz, CDCl3): δ 8.39 (s, 1H); 7.94 (s, 1H); 7.78-7.76 (m, 1H); 7.71-7.69 (m, 1H); 7.52-7.48 (m, 2H); 4.76 (s, 2H).

reactant | triphenylphosphine | 1.79 mmol, 469 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.79 mmol, 592 mg | C(Br)(Br)(Br)Br | CBr4
reactant | (3-iodo-2-naphthyl)methanol | 1.49 mmol, 423 mg | IC=1C(=CC2=CC=CC=C2C1)CO | C11H9IO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 11 mL | C(Cl)Cl | CH2Cl2
product | 2-(bromomethyl)-3-iodonaphthalene | BrCC1=CC2=CC=CC=C2C=C1I | C11H8BrI
